US04296239
Preparation 10: 8-Chloro-4,5-dihydro-1-methyl-6H-s-triazolo[4,3-a][1,4]benzodiazepine-6-thione
A stirred mixture of 8-chloro-5,6-dihydro-1-methyl-4H-s-triazolo[4,3-a][1,4]benzodiazepin-6-one (VIIa) (24.87 g., 0.1 mole) and dry pyridine (1420 ml.) was treated with phosphorus pentasulfide (24.45 g., 0.11 mole) and refluxed for 2.5 hours, under nitrogen. The mixture was cooled, concentrated in vacuo, and the residue mixed with water and chloroform. The mixture was neutralized with sodium bicarbonate and the solid collected by filtration. This solid was washed with chloroform and recrystallized from a chloroform/methanol/ethyl acetate mixture to give 20.31 g., melting point 303°-308° of the titled product (VIIIa). Additional product was obtained from the chloroform filtrates which were washed with brine, dried (Na2SO4) and concentrated. The residue was crystallized from a chloroform/methanol/ethyl acetate mixture to give 2.93 g., melting point 298°-303°; and 0.78 g., melting point 302°-305° of the title compound (VIIIa) (91% overall yield). The analytical sample was recrystallized from methylene chloride/methanol and had: melting point 306°-308°; uv (EtOH) λ max 223 mμ (ε31,500), 316 (7700). The ir and nmr spectra support the proposed structure.

reactant | 8-chloro-5,6-dihydro-1-methyl-4H-s-triazolo[4,3-a][1,4]benzodiazepin-6-one | 0.1 mole, 24.87 g | ClC=1C=CC2=C(C(NCC=3N2C(=NN3)C)=O)C1 | C11H9ClN4O
reactant | phosphorus pentasulfide | 0.11 mole, 24.45 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 1420 ml | N1=CC=CC=C1 | C5H5N
product | 8-Chloro-4,5-dihydro-1-methyl-6H-s-triazolo[4,3-a][1,4]benzodiazepine-6-thione | ClC=1C=CC2=C(C(NCC=3N2C(=NN3)C)=S)C1 | C11H9ClN4S
